### PR TITLE
generic lemmas from kernels PR

### LINKED ISSUE #820: Wrong version number in deprecated attribute
https://github.com/math-comp/analysis/blob/c56991ba1e47913a65d7dfa5d36afe6ec72542e4/theories/measure.v#L2913

### PR DESCRIPTION
**Pull request by affeldt-aist**
- fixes #820

The main purpose of this PR is to have into master generic lemmas used in PR #749 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: classical/mathcomp_extra.v [hunk 1]
```diff
@@ -1101,3 +1104,5 @@ Proof. by move=> z; rewrite /proj dfwithin. Qed.
 
 End DFunWith.
 Arguments dfwith {I T} f i x.
+
+Definition swap (T1 T2 : Type) (x : T1 * T2) := (x.2, x.1).
```
Comment (proux01) [inline classical/mathcomp_extra.v:1108]: Definitions should be documented in the header.

File: theories/lebesgue_integral.v [hunk 2]
```diff
@@ -1037,6 +1037,13 @@ Qed.
 Lemma integral0 D : \int_(x in D) (cst 0 x) = 0.
 Proof. by rewrite ge0_integralE// erestrict0 nnintegral0. Qed.
 
+Lemma integral1 D f :
+  (forall x, D x -> f x = 0) -> \int_(x in D) f x = 0.
```
Comment (proux01) [inline theories/lebesgue_integral.v:1041]: I don't get the `integral1` name, maybe `integral0_eq`?

File: CHANGELOG_UNRELEASED.md [hunk 3]
```diff
@@ -26,6 +45,8 @@
 
 - in `esum.v`:
   + lemma `esum_esum`
+- in `measurable.v`:
+  + lemma `measurable_fun_comp`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:49]: Maybe add something like "renamed measurable_fun_comp -> measurable_funT_comp"? given the extent of changes it seems to introduce?

File: CHANGELOG_UNRELEASED.md [hunk 4]
```diff
@@ -15,6 +15,25 @@
...
+- in `exp.v`:
+  + lemma `expR_ge0`
+- in `measure.v`
+  + lemma `measurable_fun_compT`
+  + lemmas `measurable_curry`, `measurable_fun_fst`, `measurable_fun_snd`,
+    `measurable_fun_swap`, `measurable_fun_pair`, `measurable_fun_if_pair`
+  + lemmas `dirac0`, `diracT`
+  + lemma `finite_measure_sigma_finite`
+- in `lebesgue_measure.v`:
+  + lemma `measurable_fun_opp`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:33]: I don't see this one

File: CHANGELOG_UNRELEASED.md [hunk 5]
```diff
@@ -15,6 +15,25 @@
...
+- in `mathcomp_extra.v`:
+  + lemma `add_onemK`
+  + function `swap`
+- in `classical_sets.v`:
+  + lemmas `setT0`, `set_unit`, `set_bool`
+  + lemmas `xsection_preimage_snd`, `ysection_preimage_fst`
+- in `exp.v`:
+  + lemma `expR_ge0`
+- in `measure.v`
+  + lemma `measurable_fun_compT`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:27]:
```suggestion
  + lemma `measurable_funT_comp`
```

File: CHANGELOG_UNRELEASED.md [hunk 6]
```diff
@@ -26,6 +45,8 @@
 
 - in `esum.v`:
   + lemma `esum_esum`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:47]: I don't see this one either

**Review by proux01 — APPROVED** [review]
LGTM modulo a few comments

File: theories/lebesgue_integral.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/lebesgue_integral.v:1041]: It was on the model of `big1` but `integral0_eq` is maybe bettter.

File: CHANGELOG_UNRELEASED.md (hunk 6 above)
Comment (affeldt-aist) [reply CHANGELOG_UNRELEASED.md:47]: It is in `esum.v` but not concerned by this PR.
